US07417062B2
Step 1: [2-(1-Methyl-pyrrolidin-2-yl)-ethyl]-naphthalen-2-ylmethyl-amine.
Experimental condition analogous to Example 1, from 2-naphthalencarboxaldehyde 0.15 g (1 mmol), 2-(1-methyl-pyrrolidin-2-yl)-ethylamine 0.14 g (1.1 mmol), and sodium triacethoxyborohydride 0.31 g (1.5 mmol), in 10 mL dichloromethane. The crude material is 110 mg pale yellow oil.

reactant | 2-naphthalencarboxaldehyde | 1 mmol, 0.15 g | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
reactant | 2-(1-methyl-pyrrolidin-2-yl)-ethylamine | 1.1 mmol, 0.14 g | CN1C(CCC1)CCN | C7H16N2
reactant | sodium | [Na] | Na
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | [2-(1-Methyl-pyrrolidin-2-yl)-ethyl]-naphthalen-2-ylmethyl-amine | CN1C(CCC1)CCNCC1=CC2=CC=CC=C2C=C1 | C18H24N2
